US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(4-ethoxycarbonyltriazol-1-yl)benzimidazol-1-yl]pyrimidine
A solution containing 12.5 mg of 2-[(S)-1-phenylethylamino]-4-[5-azidobenzimidazol-1-yl]pyrimidine and about 100 μL ethyl-3,3-dimethylaminoacrylate in 2 mL 1,4-dioxane was stirred at 90° C. for 48 hours. The solution was concentrated under reduced pressure. The residue was purified by flash chromatography eluting with methanol in methylene chloride to give 6.0 mg of the title compound. RF: 0.4 (5% MeOH in CH2Cl2). 1H NMR (500 MHz, 1:1 CD3OD/CDCl3): δ 1.42 (t, J=7.1 Hz, 3H), 1.59 (d, J=7.1 Hz, 3H), 4.44 (q, J=7.1 Hz, 2H), 5.16 (m, 1H), 6.92 (d, J=5.5 Hz, 1H), 7.24 (br s, J=7.3 Hz, 1H), 7.36 (br s, J=7.3 Hz, 2H), 7.45 (d, J=7.3 Hz, 2H), 7.68-7.8 (m, 1H), 7.95 (m, 1H), 8.14 (br s, 1H), 8.38 (br s, J=5.3 Hz, 1H), 8.77 (m, 1H), 8.92 (s, 1H). Mass Spectrum (CH3CN-TFA-NH4HCO2-ESI): 455.2 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-azidobenzimidazol-1-yl]pyrimidine | 12.5 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N=[N+]=[N-] | C19H16N8
reactant | ethyl-3,3-dimethylaminoacrylate | about 100 μL | C(C)OC(C=C(NC)NC)=O | C7H14N2O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[(S)-1-Phenylethylamino]-4-[5-(4-ethoxycarbonyltriazol-1-yl)benzimidazol-1-yl]pyrimidine | 6.0 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2N=NC(=C2)C(=O)OCC | C24H22N8O2
